US09062070B2
Step F: 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylic acid
To a solution of methyl 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylate (460 mg, 1.9 mmol) in THF (6 mL) was added lithium hydroxide (1.0 N aq. 3.8 mL, 3.8 mmol). The mixture was allowed to stir at 0° C. for 2 hours. The reaction was diluted with water (10 mL). The pH was carefully adjusted to about 5 with 1N HCl. The solution was then extracted with EtOAc (30 mL×3). The extractions were combined, dried over sodium sulfate, and concentrated to furnish the title compound: LC-MS (IE, m/z): 231 [M+1]+; 1H-NMR (500 MHz, CD3OD) δ ppm 9.87 (s, 1H), 8.09 (d, J=8.0 Hz, 1H), 7.90 (d, J=8.0 Hz, 1H), 4.20 (t, J=8.0 Hz, 1H), 3.15 (m, 1H), 3.08 (m, 1H), 2.51 (m, 2H).

reactant | methyl 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylate | 1.9 mmol, 460 mg | N1(N=NN=C1)C1=CC=C2C(=N1)CCC2C(=O)OC | C11H11N5O2
reactant | lithium hydroxide | 3.8 mmol, 1.0 N, 3.8 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-5-carboxylic acid | N1(N=NN=C1)C1=CC=C2C(=N1)CCC2C(=O)O | C10H9N5O2
